US07199150B2
5-(4-Fluorophenyl)pent-1-yne
Subsequently, sodium acetylide (18% slurry in xylene) (50 ml) was added to hexamethylphosphoramide (20 ml) with stirring, and to the resulting mixture was furthermore added a solution of 3-(4-fluorophenyl)-1-iodopropane (7.00 g, 26.5 mmol) obtained above in dry dimethylformamide (20 ml) with stirring under ice-cooling, and then the resulting mixture was stirred at room temperature for 2 hours. After stirring, ice-cold water was added to the reaction mixture carefully with stirring under ice-cooling, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. After filtration, the solvent was removed in vacuo, and the residue was purified by flash chromatography on a silica gel column using hexane as the eluent to afford the title compound (2.67 g, yield: 62%) as a colorless oil.

reactant | sodium acetylide | 50 ml | [C-]#[C-].[Na+].[Na+]
reactant | hexamethylphosphoramide | 20 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | 3-(4-fluorophenyl)-1-iodopropane | 26.5 mmol, 7.00 g | FC1=CC=C(C=C1)CCCI | C9H10FI
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 5-(4-Fluorophenyl)pent-1-yne | 2.67 g, yield: 62% | FC1=CC=C(C=C1)CCCC#C | C11H11F
